US05434310
The process of claim 1, wherein benzene and benzoic acid are reacted to give benzophenone.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
